Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Breast cancer with nodal involvement.
 
Major Surgical or Invasive Procedure:
RIGHT MODIFIED RADICAL MASTECTOMY; RIGHT AXILLARY NODE 
DISSECTION; RIGHT AXILLARY LYMPHATICOVENOUS BYPASS; Adjacent 
Tissue Transfer (14x6cm)

 
History of Present Illness:
___ woman who presented with right locally advanced 
breast cancer.  She underwent neoadjuvant chemotherapy.  The 
patient is now undergoing modified radical mastectomy and a 
lymphovenous bypass. 
 
Past Medical History:
COLONIC ADENOMA                                                 
BREAST CANCER     
heart murmur
MVP
anemia
hepatitis    
HTN
.
PSH:
LEFT BREAST PARTIAL MASTECTOMY     ___
CATARACTS
                           
 
Social History:
___
Family History:
No known history of malignancy
 
Physical Exam:
Physical exam per post operative check ___:
BP 140s-160s HR 80 99%RA
GEN: NAD
CV: RRR
Pulm: nonlabored breathing on room air
Abd: s/nt/nd
Breast: dressing clean/dry/intact. two JP drains with small
amount of sanguinous output.

 
Brief Hospital Course:
___ year old female with right breast cancer and nodal 
involvement admitted for observation after a right radical 
mastectomy and lymphovenous bypass. She had uneventful recovery 
in PACU and was transferred to the floor.  She had good pain 
control with IV pain meds and then PO pain meds. She was given 
IV fluids until tolerating PO. Patient was able to void 
spontaneously. Patient was concerned about drain care at home 
and was amenable to a visiting nurse but also nervous because 
her apartment is a 'mess'. She states she is not a 'hoarder' but 
she just doesn't like to clean up her place.  She felt good 
discussing it as a problem.  Patient met with social work to 
talk more about the situation and her resources.  Patient was 
discharged home on POD1 in a compression wrap around her torso 
and with 2 JP drains. Her pain was well controlled and she was 
anxious to get home.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain – Mild,  HA, T>100 
degrees  
RX *acetaminophen 325 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth Every ___ hours Disp 
#*5 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1) right breast cancer with nodal involvement
2) increased risk of RUE lymphedema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care: 
 
1. You may leave your incision open to air or you may cover with 
a clean, dry dressing daily. 
 
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water. 
 
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day. 
 
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount. 
 
5. You may shower daily. No baths until instructed to do so by 
Dr. ___. 
 
6. Do not raise your surgicalarm higher than shoulder level for 
1 week.
 
. 
 
Diet/Activity: 
 
1. You may resume your regular diet. 
 
2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___. 
 
. 
 
Medications: 
 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. 
 
3. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
 
4. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); youshould continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
 
. 
 
Call the office IMMEDIATELY if you have any of the following: 
 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth ortenderness at the surgical site, or unusual 
drainage from the incision(s). 
 
2. A large amount of bleeding from the incision(s) or drain(s). 
 
3. Fever greater than 101.5 oF 
 
4. Severe pain NOT relieved by your medication. 
 
. 
 
Return to the ER if: 
 
* If youare vomiting and cannot keep in fluids or your 
medications. 
 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
 
. 
 
DRAIN DISCHARGE INSTRUCTIONS You are being discharged with 
drains in place. Drain care is a clean procedure. Wash your 
hands thoroughly with soap and warm water before performing 
drain care. Perform drainage care twice a day. Try to empty the 
drain at the same time each day. Pull the stopper out of the 
drainage bottle and empty the drainage fluid into the measuring 
cup. Record the amount of drainage fluidon the record sheet. 
Reestablish drain suction.
 
****Please call ___ schedule your Lymphedema 
Treatment Clinic follow-up.Our lymphedema therapists would like 
to see you 4 weeks after your operation and then at 3 months 
after your operation.They will formally follow you every 3 
months for ___ years.
 

 
Followup Instructions:
___